US08957074B2
Following general amide formation method 1, 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid (80 mg, 0.19 mmol, 1.0 eq) was combined with tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate (47.1 mg, 0.208 mmol, 1.1 eq) to afford tert-butyl 7-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-2,7-diazaspiro[3.5]nonane-2-carboxylate as a white solid (22 mg, 0.035 mmol) in 18.4% yield. 1H NMR (400 MHz, chloroform-d) δ ppm 8.67 (s, 1H) 8.60 (d, J=8.59 Hz, 1H) 8.31 (d, J=2.02 Hz, 1H) 8.16-8.28 (m, 1H) 7.74 (dd, J=8.59, 2.53 Hz, 1H) 6.39 (s, 1H) 5.23 (s, 1H) 4.38-4.51 (m, 1H) 3.63 (s, 4H) 3.52 (br s, 2H) 3.10 (s, 6H) 2.48-2.66 (m, 2H) 1.86-2.03 (m, 2H) 1.56-1.85 (m, 9H) 1.42-1.56 (m, 4H) 1.38 (s, 9H). MS (m/z, MH+): 631.7

reactant | 6-(7-Cycloheptyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid | 0.19 mmol, 80 mg, 1.0 eq | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C22H26N6O3
reactant | tert-butyl 2,7-diazaspiro[3.5]nonane-2-carboxylate | 0.208 mmol, 47.1 mg, 1.1 eq | C1N(CC12CCNCC2)C(=O)OC(C)(C)C | C12H22N2O2
product | tert-butyl 7-(6-(7-cycloheptyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinoyl)-2,7-diazaspiro[3.5]nonane-2-carboxylate | 0.035 mmol, 22 mg, 18.4% yield | C1(CCCCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)N1CCC3(CN(C3)C(=O)OC(C)(C)C)CC1)C=C2)C(N(C)C)=O | C34H46N8O4
